US08202873B2
3′-(2-Fluoro-3-trifluoromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine
Add 4 M HCl in 1,4-dioxane (5 mL) to a solution of 3′-(2-fluoro-3-trifluoromethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (0.101 g, 0.237 mmol) in DCM (10 mL) and stir for 19 hr. Concentrate, dissolve the residue in methanol (20 mL) and purify by SCX chromatography (pre-wash column with methanol), load material, elute with 2 M ammonia in methanol, and concentrate to give the title preparation as a yellow solid (0.0985 g). MS (ES): m/z=327 [M+H]+.

reactant | HCl | 4 M | Cl | ClH
reactant | 3′-(2-fluoro-3-trifluoromethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 0.237 mmol, 0.101 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=C(C(=CC=C1)C(F)(F)F)F | C20H22F4N4O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3′-(2-Fluoro-3-trifluoromethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | FC1=C(C=CC=C1C(F)(F)F)C=1C(=NC=CN1)N1CCNCC1 | C15H14F4N4
